US07569578B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1-benzyl-1H-tetrazol-5-yl)-2-(7-ethyl-3-methyl-1H-indazol-5-yl)-ethyl]-amide
A mixture of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1H-tetrazol-5-yl)-ethyl]-amide (30 mg, 0.05 mmol, 1.0 equiv), sodium carbonate (18.0 mg, 3.0 equiv), and benzyl bromide (8 μL, 1.1 equiv) were combined in dimethylsulfoxide and the mixture stirred at room temperature overnight. The mixture was then diluted with water and extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine (3×), dried over sodium sulfate, and concentrated. Purification by preparative HPLC afforded a mixture of the two alkylated regioisomers which were not separated. LC/MS: tR=1.68 min, 619.44 (MH)+.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(7-ethyl-3-methyl-1H-indazol-5-yl)-1-(1H-tetrazol-5-yl)-ethyl]-amide | 0.05 mmol, 30 mg, 1.0 equiv | C(C)C=1C=C(C=C2C(=NNC12)C)CC(C1=NN=NN1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H32N10O2
reactant | sodium carbonate | 18.0 mg, 3.0 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 8 μL, 1.1 equiv | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(1-benzyl-1H-tetrazol-5-yl)-2-(7-ethyl-3-methyl-1H-indazol-5-yl)-ethyl]-amide | C(C1=CC=CC=C1)N1N=NN=C1C(CC=1C=C2C(=NNC2=C(C1)CC)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C34H38N10O2
